US07482341B2
Step C): 6-[(Methyl-propyl-amino)-methyl]-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from 2,2-dimethyl-N-{6-[(methyl-propyl-amino)-methyl]-pyridin-2-yl}-propionamide (0.755 g) and 3M aqueous NaOH (5.73 mL) as a brown liquid (0.53 g). MS (ESI): 180.2 (MH+).

reactant | 2,2-dimethyl-N-{6-[(methyl-propyl-amino)-methyl]-pyridin-2-yl}-propionamide | 0.755 g | CC(C(=O)NC1=NC(=CC=C1)CN(CCC)C)(C)C | C15H25N3O
reactant | NaOH | 3M, 5.73 mL, 0.53 g | [OH-].[Na+]
product | 6-[(Methyl-propyl-amino)-methyl]-pyridin-2-ylamine | CN(CCC)CC1=CC=CC(=N1)N | C10H17N3
